US09226916B2
d) rac-[(3R,4S)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester
To a solution of rac-[(3S,4R)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-amine (2.85 g, 8.50 mmol) in dichloromethane (29 mL) was added at ambient temperature triethylamine (2.4 mL, 17.0 mmol), 4-dimethylaminopyridine (0.10 g, 0.85 mmol) and di-tert.-butyl-dicarbonate (2.04 g, 9.35 mmol). The solution was stirred for 2 h at ambient temperature. The solution was diluted with water (30 mL). The organic layer was washed with water (30 mL), the aqueous layers were extracted with dichloromethane (20 mL), dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 60:40) afforded the title compound (3.52 g, 95%) as a light brown oil. MS m/e: 435.2 [M+H]+.

reactant | rac-[(3S,4R)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-amine | 8.50 mmol, 2.85 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC(=C(C=C1)Cl)Cl)NC | C18H20Cl2N2
reactant | triethylamine | 17.0 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert.-butyl-dicarbonate | 9.35 mmol, 2.04 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 29 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.85 mmol, 0.10 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 30 mL | O | H2O
product | rac-[(3R,4S)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester | 3.52 g, 95% | C(C)(C)(C)OC(N(C)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)CC1=CC=CC=C1)=O | C23H28Cl2N2O2
